US07183270B2
Part A. Preparation of 2-Butyrylamino-5-chloro-benzamide
2-Amino-5-chlorobenzamide (1.10 g, 6.5 mmol, 1 eq.), 1.000 N NaOH (6.50 mL, 6.5 mmol, 1 eq.) and THF (20 mL) were mixed and stirred at 0° C. To this mixture was added butyryl chloride dropwise (0.68 mL, 6.50 mmol, 1 eq.). More acid chloride and base were added to drive reaction to completion. The reaction was allowed to warm to rt. After 4 days the reaction was worked up by adding ethyl acetate, washing with 1 N HCl (3×), saturated sodium bicarbonate (1×), and brine (1×). The organic layer was dried and stripped to yield 1.44 g of a white powder as product. LCMS detects (M+H)+=241.0.

reactant | 2-Amino-5-chlorobenzamide | 6.5 mmol, 1.10 g, 1 eq. | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
reactant | NaOH | 6.5 mmol, 1.000 N, 6.50 mL, 1 eq. | [OH-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Butyrylamino-5-chloro-benzamide | 1.44 g | C(CCC)(=O)NC1=C(C(=O)N)C=C(C=C1)Cl | C11H13ClN2O2
